US05360811
4-(1- Dodecynyl)-2-thiazolecarboxaldehyde
A solution of 4-bromo-2-thiazolecarboxaldehyde (14.8 g), 1-dodecyne (14.1 g), and triethylamine (23.5 g) in dry tetrahydrofuran (85 m) was chilled to 5° C. and degassed under nitrogen. bis(Triphenylphosphine)palladium (II) chloride (0.54 g) and copper (I) iodide (0.07 g) were added to the mixture, which was degassed, and stirred, under nitrogen, at room temperature for 2.5 hrs. The reaction mixture was heated at 40° C. for 7 hrs, during which time additional amounts of 1-dodecyne (3.9 g), bis(triphenylphosphine)palladium (II) chloride (0.11 g), and copper(I)iodide (0.02 g) were added. The mixture was cooled to room temperature, the precipitate was collected, and the filter cake was washed with ethyl acetate. The filtrate was diluted with ethyl acetate (300 ml). Water was added in portions, and the organic layer was washed with brine, dried over magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on silica gel, eluting with heptane to heptane: 1% ethyl acetate. A portion (1.05 g) of the residue was rechromatographed, eluting with hexane:(0.3 to 1%) ethyl acetate. The appropriate fractions were collected and evaporated to yield 0.79 g (76.5% yield) of product, mp 25.5°-26° C.

reactant | 4-bromo-2-thiazolecarboxaldehyde | 14.8 g | BrC=1N=C(SC1)C=O | C4H2BrNOS
reactant | 1-dodecyne | 14.1 g | C#CCCCCCCCCCC | C12H22
reactant | triethylamine | 23.5 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(1- Dodecynyl)-2-thiazolecarboxaldehyde | 0.79 g, 76.5% yield | C(#CCCCCCCCCCC)C=1N=C(SC1)C=O | C16H23NOS
